US06002008
A mixture of 0.358 g of 4-(4-chloro-2-fluoro-phenylamino)-6,7-dimethoxy-quinoline-3-carbonitrile and 3 g of pyridine hydrochloride was stirred under nitrogen at 210-220° C. for 20 minutes. The mixture was cooled and added to 50 ml of 3% ammonium hydroxide solution. The product was collected, washed with water, and dried to give 0.302 g of 4-(4-chloro-2-fluoro-phenylamino)-6,7-dihydroxy-quinoline-3-carbonitrile as a solid, mp 270-272° C.; mass spectrum (EI, m/e): M 329.0363.

reactant | 4-(4-chloro-2-fluoro-phenylamino)-6,7-dimethoxy-quinoline-3-carbonitrile | 0.358 g | ClC1=CC(=C(C=C1)NC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N)F | C18H13ClFN3O2
reactant | pyridine hydrochloride | 3 g | Cl.N1=CC=CC=C1
solvent | ammonium hydroxide | 50 ml | [OH-].[NH4+]
product | 4-(4-chloro-2-fluoro-phenylamino)-6,7-dihydroxy-quinoline-3-carbonitrile | 0.302 g | ClC1=CC(=C(C=C1)NC1=C(C=NC2=CC(=C(C=C12)O)O)C#N)F | C16H9ClFN3O2
